US07582633B2
Step 2: ((5-{2-[4-(2,5-Dichlorophenoxy)piperidin-1-yl]pyrimidin-5-yl}-2H-tetrazol-2-yl)acetic acid
The title compound was prepared in a similar manner as that described for Example 3 (step 5) from ethyl (5-{2-[4-(2,5-dichlorophenoxy)piperidin-1-yl]pyrimidin-5-yl}-2H-tetrazol-2-yl)acetate and aqueous NaOH.

reactant | ethyl (5-{2-[4-(2,5-dichlorophenoxy)piperidin-1-yl]pyrimidin-5-yl}-2H-tetrazol-2-yl)acetate | ClC1=C(OC2CCN(CC2)C2=NC=C(C=N2)C=2N=NN(N2)CC(=O)OCC)C=C(C=C1)Cl | C20H21Cl2N7O3
reactant | NaOH | [OH-].[Na+]
product | (5-{2-[4-(2,5-Dichlorophenoxy)piperidin-1-yl]pyrimidin-5-yl}-2H-tetrazol-2-yl)acetic acid | ClC1=C(OC2CCN(CC2)C2=NC=C(C=N2)C=2N=NN(N2)CC(=O)O)C=C(C=C1)Cl | C18H17Cl2N7O3
